US05405829
v) 3-Methoxycarbonyl-4-chloro-5-difluoromethoxy-1-methylpyrazole
2.1 g (10 mmole) 3-Methoxycarbonyl-5-difluoromethoxy-1-methylpyrazole, dissolved in 30 ml methylene chloride, was treated with 1.35 g (10 mmole) sulfuryl chloride and stirred for 10 minutes at room temperature. It was then concentrated and recrystallised from diisopropyl ether/ethyl acetate.

reactant | 3-Methoxycarbonyl-5-difluoromethoxy-1-methylpyrazole | 10 mmole, 2.1 g | COC(=O)C1=NN(C(=C1)OC(F)F)C | C7H8F2N2O3
reactant | sulfuryl chloride | 10 mmole, 1.35 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 3-Methoxycarbonyl-4-chloro-5-difluoromethoxy-1-methylpyrazole | COC(=O)C1=NN(C(=C1Cl)OC(F)F)C | C7H7ClF2N2O3
